* LVS reference generated from ../cell/v3/eml_cell_v3b.inc
.subckt ota1b inp inn out vdd pbias VSS
MMT ntail pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=8u W=32u
MMP1 n1 inp ntail vdd sky130_fd_pr__pfet_g5v0d10v5 L=2u W=32u
MMP2 out inn ntail vdd sky130_fd_pr__pfet_g5v0d10v5 L=2u W=32u
MMN1 n1 n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 L=2u W=4u
MMN2 out n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 L=2u W=4u
.ends
